US04478849
1-(4-Carbomethoxyphenyl)propan-2-one
Sodium metabisulphite (131 g) in water (300 ml) was added to 1-(4-carbomethoxyphenyl)propan-2-one oxime (37.5 g) in methanol (200 ml) and the mixture refluxed for 6 hours. The reaction mixture was cooled, concentrated hydrochloric acid (100 ml) added, the mixture extracted with chloroform and the combined chloroform extracts washed with water followed by sodium bicarbonate solution. The chloroform layer was dried (MgSO4) and evaporated to give the title compound as an oil (bp 126°-129°/0.7 mm) which crystallised on standing, (mp 40°-47°). τ (CDCl3) 7.88 (3H, s), 6.28 (2H, s), 6.14 (3H, s), 2.77 (2H, d, J=8 Hz), 2,04 (2H, d, J=8 Hz).

reactant | Sodium metabisulphite | 131 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-(4-carbomethoxyphenyl)propan-2-one oxime | 37.5 g | C(=O)(OC)C1=CC=C(C=C1)CC(C)=NO | C11H13NO3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 1-(4-Carbomethoxyphenyl)propan-2-one | C(=O)(OC)C1=CC=C(C=C1)CC(C)=O | C11H12O3
